US09108939B2
B: 1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)phenyl)-3-(pyridin-4-yl)urea
Reaction 2: A mixture of 2-(4-((4-(4-aminophenyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.925 mmol, 400 mg) and phenyl pyridin-4-ylcarbamate (1.388 mmol, 297 mg) in dioxane was heated in a reactivial at 100° C. (heating block temperature) for 48 hours.

reactant | 2-(4-((4-(4-aminophenyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.925 mmol, 400 mg | NC1=CC=C(C=C1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H22F6N2O
reactant | phenyl pyridin-4-ylcarbamate | 1.388 mmol, 297 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)phenyl)-3-(pyridin-4-yl)urea | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)C=C1)(F)F | C27H26F6N4O2
